US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[naphth-1-yl]thiourea
The title compound was prepared from 1-naphthyl isothiocyanate and 4-methoxy-3-(4-methylpiperazin-1-yl)aniline (EP0533268A1) using a similar procedure to Example 6.

reactant | 1-naphthyl isothiocyanate | C1(=CC=CC2=CC=CC=C12)N=C=S | C11H7NS
reactant | 4-methoxy-3-(4-methylpiperazin-1-yl)aniline | COC1=C(C=C(N)C=C1)N1CCN(CC1)C | C12H19N3O
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[naphth-1-yl]thiourea | COC1=C(C=C(C=C1)NC(=S)NC1=CC=CC2=CC=CC=C12)N1CCN(CC1)C | C23H26N4OS
